US04550166
8-(3-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A 4.15 g portion of 2-hydrazino-3,3'-bipyridine was dissolved in 30 ml of triethyl orthoformate and heated at 100° C. for 2 hours. The volatiles were removed at reduced pressure and the residue purified by chromatography on hydrous magnesium silicate, eluting with ethyl acetate. The solid was recrystallized from methylene chloride-hexane, giving 2.67 g of the desired product, mp 186°-189° C.

reactant | 2-hydrazino-3,3'-bipyridine | N(N)C1=NC=CC=C1C=1C=NC=CC1 | C10H10N4
reactant | triethyl orthoformate | 30 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-(3-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | 2.67 g | N1=CC(=CC=C1)C=1C=2N(C=CC1)C=NN2 | C11H8N4
